*Xyce Common Source Circuit
** library calling



*****************
** main netlist
*****************
.param volt = 0
V1 in 0 dc {volt} ac 1
{{Iopen}}

R1 in out 1G
xq1 {{connection}} {{device}}

.meas AC freq when Vdb(out)=-3 PRECISION=15

*****************
** Analysis
*****************
.ac dec 10 1 10G
.step volt 0 -3.0 -0.1
.STEP TEMP LIST {{temp}}
.include "../../../design.spice"
.lib "../../../sm141064.spice" bjt_{{corner}}

.end
